US05021412
6.7 g of 4-(2-chloro-2-propeneoxy)benzylamine was added dropwise to a mixture of 7.7 g of DCC, 20 ml of carbon disulfide and 100 ml of diethyl ether with stirring at -10° C. The temperature of the mixture was returned to room temperature, and it was left to stand for 12 hours. The reaction solution was filtered, and the residue was washed with diethyl ether and combined with the filtrate. The solvent was evaporated under reduced pressure. The resulting oily product was purified by column chromatography (silica gel; developing solvent hexane) to give 6.6 g of the desired 4-(2-chloro-2-propeneoxy)benzyl isothiocyanate as an oil.

reactant | 4-(2-chloro-2-propeneoxy)benzylamine | 6.7 g | ClC(COC1=CC=C(CN)C=C1)=C | C10H12ClNO
reactant | DCC | 7.7 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | carbon disulfide | 20 ml | C(=S)=S | CS2
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 4-(2-chloro-2-propeneoxy)benzyl isothiocyanate | 6.6 g | ClC(COC1=CC=C(CN=C=S)C=C1)=C | C11H10ClNOS
